US06376469B1
1N Hydrochloric acid (2.05 g) and acetic acid (0.75 g) were added to a solution of amrubicin (1.0 g) in water (10 g) and acetone (6.7 g) at 0 to 5° C., to adjust the pH to 2.5, and stirred for 30 minutes. The reaction mixture was poured into acetone (280 g) at 30 to 34° C., and stirred for 3 hours. The precipitated crystals were collected by filtration, and washed with acetone (9.8 g) to give wet crystals of amrubicin hydrochloride. The wet crystals were added again to mixture of acetone (280 g) and water (11.8 g), and stirred at 30 to 34° C. for 1 hour. The crystals were collected by filtration, and washed with acetone (9.8 g), and dried under reduced pressure at room temperature.

reactant | Hydrochloric acid | 1N, 2.05 g | Cl | ClH
reactant | acetic acid | 0.75 g | C(C)(=O)O | C2H4O2
reactant | amrubicin | 1.0 g | CC(=O)[C@@]1(CC2=C(C(=C3C(=C2O)C(=O)C=4C=CC=CC4C3=O)O)[C@H](C1)O[C@H]5C[C@@H]([C@@H](CO5)O)O)N | C25H25NO9
reactant | acetone | 6.7 g | CC(=O)C | C3H6O
reactant | acetone | 280 g | CC(=O)C | C3H6O
solvent | water | 10 g | O | H2O
product | amrubicin hydrochloride | CC(=O)[C@@]1(CC2=C(C(=C3C(=C2O)C(=O)C=4C=CC=CC4C3=O)O)[C@H](C1)O[C@H]5C[C@@H]([C@@H](CO5)O)O)N.Cl | InChI=1S/C25H25NO9.ClH/c1-10(27)25(26)7-13-18(16(8-25)35-17-6-14(28)15(29)9-34-17)24(33)20-19(23(13)32)21(30)11-4-2-3-5-12(11)22(20)31;/h2-5,14-17,28-29,32-33H,6-9,26H2,1H3;1H/t14-,15+,16-,17-,25-;/m0./s1
